US04668697
5-(Carboethoxymethoxy)-2-sulfamoylbenzo[b]thiophene
A mixture of 5-(carboxymethoxy)benzo[b]thiophene-2-sulfonamide (1.50 g, 0.0052 m) in ethanol (15 ml) and concentrated sulfuric acid (3 ml) was refluxed with stirring for 5 hours. Ethanol was evaporated under reduced pressure, the residue was treated with H2O (25 ml) and extracted with ethyl acetate (50 ml and 2×25 ml). The combined extracts were washed with H2O, saturated sodium bicarbonate solution (2×25 ml), and three times with H2O. After drying over Na2SO4, the solvent was evaporated under reduced pressure to afford 1.43 g (87%) of product. Recrystallization from nitromethane afforded 1.12 g of analytically pure product melting at 167.5-168° C.

reactant | 5-(carboxymethoxy)benzo[b]thiophene-2-sulfonamide | 1.50 g | C(=O)(O)COC1=CC2=C(SC(=C2)S(=O)(=O)N)C=C1 | C10H9NO5S2
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(Carboethoxymethoxy)-2-sulfamoylbenzo[b]thiophene | 1.43 g, 87% | C(=O)(OCC)COC1=CC2=C(SC(=C2)S(N)(=O)=O)C=C1 | C12H13NO5S2
